US06821977B2
9-Formyl-2-nitro-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester
The compound 9-formyl-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester (705 mg, 3 mmol) was dissolved in concentrated sulfuric acid (30 mL) and the resulting deep blue solution cooled to 0° C. in an ice bath. It was then treated with 90% fuming nitric acid dropwise (1.5 mL), allowed to warm up to room temperature and stirred for additional 2 hours. The reaction mixture was then carefully poured over 500 mL of ice and the pink precipitate was filtered at room temperature, washed thoroughly with water and dried in vacuo. The crude product was recrystallized from boiling acetonitrile. Yield 702 mg (83%) light yellow crystals, M-280.

reactant | 9-formyl-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester | 3 mmol, 705 mg | COC(=O)C1=CC=CC=2N(CCCOC21)C=O | C12H13NO4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 9-Formyl-2-nitro-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester | COC(=O)C1=CC(=CC=2N(CCCOC21)C=O)[N+](=O)[O-] | C12H12N2O6
